US07820704B2
cis-4-Methyl-cyclohexanol (3.28 g, 28.7 mmol), NaH (1.09 g, 27.3 mmol, 60% suspension in mineral oil) and DMF (50 mL) were combined and sonicated as in general procedure L. The mixture was charged with 4′-fluoroacetophenone (2.18 mL, 17.8 mmol) and heated. After aqueous workup, the crude residue was purified on a silica gel column (gradient, hexane→2% EtOAc-hexane) to obtain 1-[4-(cis-4-Methyl-cyclohexyloxy)-phenyl]-ethanone (976 mg).

reactant | cis-4-Methyl-cyclohexanol | 28.7 mmol, 3.28 g | C[C@H]1CC[C@H](CC1)O | C7H14O
reactant | NaH | 27.3 mmol, 1.09 g | [H-].[Na+]
reactant | 4′-fluoroacetophenone | 17.8 mmol, 2.18 mL | FC1=CC=C(C=C1)C(C)=O | C8H7FO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-[4-(cis-4-Methyl-cyclohexyloxy)-phenyl]-ethanone | 976 mg | C[C@H]1CC[C@H](CC1)OC1=CC=C(C=C1)C(C)=O | C15H20O2
